US05840917
A mixture of 3-acetylthiophene (20 g), ethyleneglycol (10.54 g), p-toluenesulfonic acid (0.15 g) and toluene (200 ml) was stirred for 16 hours under reflux with removing azeotropic water by Dean-Stark trap. The mixture was cooled, washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 2-methyl-2-(3-thienyl)-1,3-dioxolan (12.6 g). 2-Methyl-2-(3-methyl-2-(3-thienyl)-1,3-dioxolan (12.0 g) was dissolved in tetrahydrofuran (200 ml), and N,N,N',N'-tetramethylethylenediamine (1.3 ml) was added. The mixture was cooled to -78° C, and n-butyllithium (1.6M in hexane, 49 ml) was slowly added dropwise. The mixture was stirred at the same temperature for 2 hours, and then warmed slowly to room temperature for a period of 2 hours with introducing carbon dioxide gas. The reaction mixture was concentrated under reduced pressure, and 2N hydrochloric acid (200 ml) was added. The mixture was stirred for 3 hours, and precipitated crystals were collected by filtration, washed with water and dried to give 3-acetyl-2-thiophenecarboxylic acid (10 g) as crystals.

reactant | 3-acetylthiophene | 20 g | C(C)(=O)C1=CSC=C1 | C6H6OS
reactant | ethyleneglycol | 10.54 g | C(CO)O | C2H6O2
catalyst | p-toluenesulfonic acid | 0.15 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-2-(3-thienyl)-1,3-dioxolan | 12.6 g | CC1(OCCO1)C1=CSC=C1 | C8H10O2S
